US04435567
11.28 g n-butylcarbamoyl-benzoic acid sulfimide was reacted with 2.16 g o-phenylene diamine and 5.6 ml triethylamine in 20 ml of a 1:1 mixture of water and acetone, as described in example 1. 5.0 g N,N'-bis(n-butylcarbamoyl)-o-phenylene diamine was obtained, melting at 163°-164° C.

reactant | n-butylcarbamoyl-benzoic acid sulfimide | 11.28 g | [SH2]=N.C(CCC)NC(=O)C1=C(C(=O)O)C=CC=C1
reactant | o-phenylene diamine | 2.16 g | C1(=C(C=CC=C1)N)N | C6H8N2
reactant | triethylamine | 5.6 ml | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
reactant | acetone | CC(=O)C | C3H6O
product | N,N'-bis(n-butylcarbamoyl)-o-phenylene diamine | 5.0 g | C(CCC)NC(=O)NC1=C(C=CC=C1)NC(NCCCC)=O | C16H26N4O2
